US08183280B2
A. (2S)-2-(2-Methoxybenzoylamino)-3-methylpentanoic acid tertbutyl ester
L-Isoleucine tertbutyl ester hydrochloride (500 mg, 2.23 mmol) was dissolved in CH2Cl2 (10 ml). Triethylamine (600 g, 6.0 mmol) and 2-anisoyl chloride (456 mg, 2.68 mmol) were added. After 18 h at room temperature the solvent was removed in vacuo and the residue was taken up in ethyl acetate (100 ml). This solution was washed with 0.3M KHSO4, sat. NaHCO3, water and brine, dried (Na2SO4) and evaporated in vacuo. The residue was purified by flash chromatography (eluant: 60% Pet. ether, 40% ethyl acetate) to give a colourless oil identified as the title compound (341 mg, 1.06 mmol, 48%).

reactant | L-Isoleucine tertbutyl ester hydrochloride | 2.23 mmol, 500 mg | Cl.C(C)(C)(C)OC([C@@H](N)[C@@H](C)CC)=O
reactant | Triethylamine | 6.0 mmol, 600 g | C(C)N(CC)CC | C6H15N
reactant | 2-anisoyl chloride | 2.68 mmol, 456 mg | C(C=1C(=CC=CC1)OC)(=O)Cl | C8H7ClO2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | (2S)-2-(2-Methoxybenzoylamino)-3-methylpentanoic acid tertbutyl ester | 1.06 mmol, 341 mg, 48% | C(C)(C)(C)OC([C@H](C(CC)C)NC(C1=C(C=CC=C1)OC)=O)=O | C18H27NO4
